US09302991B2
<Step-2>:2,2,2-trifluoroethyl 2-morpholino-6-(2,2,2-trifluoroethoxy)nicotinate
A mixture of 2,2,2-trifluoroethyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate (0.30 g, 0.89 mmol, Step-1), morpholine (0.77 mL, 8.89 mmol) and triethylamine (0.62 mL, 4.44 mmol) in tetrahydrofuran (2 mL) is stirred at 140° C. for 10 minutes under microwave irradiation. The reaction mixture is poured into water and extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo to give 0.35 g (>99% yield) of the title compound as a yellow solid. This material is used for the next reaction (Step-3) without further purification.

reactant | 2,2,2-trifluoroethyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 0.89 mmol, 0.30 g | ClC1=C(C(=O)OCC(F)(F)F)C=CC(=N1)OCC(F)(F)F | C10H6ClF6NO3
reactant | morpholine | 8.89 mmol, 0.77 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 4.44 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoroethyl 2-morpholino-6-(2,2,2-trifluoroethoxy)nicotinate | 0.35 g, >99% yield | O1CCN(CC1)C1=C(C(=O)OCC(F)(F)F)C=CC(=N1)OCC(F)(F)F | C14H14F6N2O4
